Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex / Vioxx / Codeine / Iodinated Contrast Media - IV Dye / 
ceftriaxone
 
Attending: ___
 
Chief Complaint:
dislodged foley, ___
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of diastolic CHF, DM, chronic Foley, and recent 
ventral hernia repair c/b recurrent mesh infection who presents 
from home for a dislodged Foley.

Patient's history significant for recent hospitalization 
___ for abdominal wound infection.  Was being treated 
with IV unasyn but patient left AMA so discharged on po 
Augmentin (per ID note ___, course indefinite so as to 
suppress organisms such as strep and MSSA).  Also team was 
managing IV diuresis and blood sugars.  As stated patient left 
AMA on ___.

Patient presented to ED ___ as his Foley fell out.  He also 
complains of constipation and pain in bilateral legs on 
posterior sides.  Endorses good po intake since discharge.  
Endorses compliance with all meds, including insulin, diuretics, 
and abx.  No fevers/chills at home.  No abd pain.  No cough.

ED course significant for:
Foley replaced
Continuing home meds including Augmentin
No IVF or diuresis given
BS of 591 (no gap on chem-7)

Transfer VS were: 97.8 58 101/48 16 93% RA 

On arrival to the floor, patient endorses above story.  He feels 
like he needs to get tuned up a bit before he leaving again.  
When asked specifically what we can do for him, he believes his 
pain can get under better control and we can improve his 
constipation.
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 
Past Medical History:
-HFpEF  
-Insulin-dependent diabetes mellitus  
-Hypertension  
-Hyperlipidemia  
-Alcohol abuse  
-Anxiety/Depression  
-Back pain  
-Gastroparesis  
-Obesity  
-PUD  
-Rectal fissure  
-Restrictive lung disease/COPD  
-Vitamin D deficiency   
-Abdominal hernia status post multiple repairs  
-BPH  
-Penile lesion s/p biopsy revealing mild squamous epithelial 
hyperplasia ___  
-chronic pain
-chronic indwelling Foley
 
Social History:
___
Family History:
Father died at ___ years from MI. Mother is alive and well. No 
other pertinent FH. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS:  97.8 100/64  62 20 96 Ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: large opening in ___ abdomen with deep wound 
purulence; no TTP 
EXTREMITIES: tense edema bilaterally 
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM
VS: AF 100-140/60-80S ___ 96% RA
GENERAL: obese male in NAD
NECK: supple, no LAD. Difficult to assess JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: large opening in ___ abdomen with minimal
surrounding erythema. Mild exudate without purulence. No TTP 
EXTREMITIES: tense edema bilaterally c/w chronic venous stasis
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes other than findings above
 
Pertinent Results:
ADMISSION/PERTINENT LABS:
___ 09:43PM BLOOD WBC-9.9 RBC-4.33* Hgb-10.8* Hct-35.5* 
MCV-82 MCH-24.9* MCHC-30.4* RDW-14.9 RDWSD-44.9 Plt ___
___ 09:43PM BLOOD Neuts-75.4* Lymphs-16.8* Monos-5.6 
Eos-1.4 Baso-0.5 Im ___ AbsNeut-7.49*# AbsLymp-1.67 
AbsMono-0.56 AbsEos-0.14 AbsBaso-0.05
___ 06:00PM BLOOD Glucose-629* UreaN-29* Creat-1.6* Na-130* 
K-4.8 Cl-88* HCO3-25 AnGap-17
___ 05:10AM BLOOD Glucose-157* UreaN-30* Creat-1.7* Na-135 
K-4.5 Cl-92* HCO3-25 AnGap-18
___ 04:57AM BLOOD CK(CPK)-59
___ 06:00PM BLOOD proBNP-690*
___ 06:00PM BLOOD Calcium-8.7 Phos-3.6 Mg-1.6
___ 06:12PM BLOOD Glucose-GREATER TH Lactate-2.2*
___ 06:18PM BLOOD Lactate-1.7
___ 04:57AM BLOOD cTropnT-0.02*
___ 05:12AM BLOOD CK-MB-2 cTropnT-0.03*
___ 09:08AM BLOOD cTropnT-0.02*

DISCHARGE LABS:
___ 07:05AM BLOOD WBC-5.9 RBC-4.33* Hgb-10.9* Hct-36.1* 
MCV-83 MCH-25.2* MCHC-30.2* RDW-15.0 RDWSD-45.6 Plt ___
___ 07:05AM BLOOD Glucose-279* UreaN-29* Creat-1.0 Na-137 
K-4.5 Cl-95* HCO3-30 AnGap-12

MICRO:
URINE CX: negative
BLOOD CX: ___ no growth to date

IMAGING:
CXR ___: No acute thoracic process.  No significant pulmonary 
edema.

 
Brief Hospital Course:
___ with history of dCHF, DM, ventral hernia repair and 
recurrent skin/soft tissue infections who presents for dislodged 
foley, found to have ___.

___
Patient with admission Cr of 1.7 with normal baseline Cr of 1.0. 
___ likely secondary to glucosuria from uncontrolled DM causing 
osmotic diuresis. He was given 2L IVF with improvement of his 
renal function to baseline. Lisinopril held in setting ___ 
and hypotension. He was discharged on reduced dose of 10mg 
lisinopril.

#Hypotension
Patient hypotensive to low ___ at on ___, but 
asymptomatic. Likely hypovolemia as he responded to fluid bolus 
and was normotensive. He was discharged on reduced dose of 10mg 
lisinopril and amlodipine was held.

#Ventral hernia repair
#Soft tissue infection: 
Per ID note ___, he is on indefinite course of Augmentin to 
suppress bugs for SSI. Exam with putative prurulence of deep 
tissue which was concerning for potential infection vs poor 
wound care. He had had MDR organisms grown from his wound in the 
past. Concern for sepsis, as he was hypotensive temporarily, and 
he was broadened temporarily to daptomycin/cefepime 
(___) and transitioned back to PO augmentin when there 
was no sign of active infection. Surgery saw patient and 
reassured that wound is better than previously. Wound team saw 
patient and gave additional wound care recs. Discharged with ___ 
services. 

#Chronic diastolic CHF: 
Difficult to assess volume status given his obesity. He was 
hypovolemic initially as evidenced by hypotension and ___ which 
improved with fluids while holding diuretics. He diuresed 
significantly without diuretic likely ___ glucosuria at home. 
Home dose of torsemide 60mg BID. After fluid resuscitation 
initially, he was trialed on torsemide 40mg with stable weight. 
Discharge weight: 176 kg. 

#DM, hyperglycemia: 
Patient only using lantus BID with sliding scale insulin. He has 
poorly controlled DM and would benefit from standing Humalog as 
what he was instructed to do on his last discharge. ___ 
consulted titrated his insulin. On discharge on lantus 72u BID, 
and Humalog ___ with meals.

#Constipation: 
In setting of opioid use. He was given aggressive bowel regimen: 
lactulose, miralax, bisacodyl, senna with improvement.

#Pyuria
UA on ___ initially concerning for infection although Ucx 
without growth. He was again advised that his elective 
indwelling foley catheter put him at risk for infection, sepsis, 
multidrug resistance and possibly death. 

CHRONIC ISSUES:

#COPD: Continued home albuterol, advair

#Hyperlipidemia: Continued home statin

#Anxiety, depression: Continued home BusPIRone, Citalopram 

#GERD: Continued home omeprazole

#Chronic generalized pain: Continued home methadone, oxycodone, 
gabapentin. Per recent MassPMP: on gabapentin 600mg TID

For billing purposes only: >30 minutes spent on patient care and 
coordination on day of discharge. 

TRANSITIONAL ISSUES
===========================
[]Discharge weight: 176kg
[]Discharge diuretic: 40mg torsemide daily
[]Please get weight as outpatient. Titrate diuretics as 
appropriate.
[]Amlodipine held on discharge and lisinopril reduced to 10mg as 
pt normotensive. Consider restarting if hypertensive.
[]Please continue to address patient's chronic hip and leg pain 
as outpatient.
[]Please encourage compliance with insulin. Discharged on lantus 
72u BID, and Humalog ___ with meals.

Wound Care: 
-Please irrigate into undermining on distal wound edge and 
entire
wound with commercial wound cleanser.
-Using dry gauze -> pat undermining dry as well as remaining
wound bed.
-Fill wound bed with dry AMD kerlix (___ ___
-Apply No Sting barrier Wipe to ___ skin to protect from
drainage and adhesive.
-Cover with softsorb dressing - secure with medipore soft cloth
tape.
-Change once daily

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing/sob 
2. amLODIPine 10 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Fluticasone-Salmeterol Diskus (250/50)  2 INH IH BID 
6. Gabapentin 600 mg PO TID 
7. HydrOXYzine 75 mg PO TID 
8. Lidocaine 5% Ointment 1 Appl TP ___ DAILY 
9. Lisinopril 40 mg PO DAILY 
10. Methadone 10 mg PO QHS 
11. Metoprolol Succinate XL 200 mg PO DAILY 
12. Nicotine Patch 21 mg TD DAILY 
13. Omeprazole 20 mg PO DAILY 
14. Senna 8.6 mg PO BID:PRN constipation 
15. TraZODone 50 mg PO QHS:PRN insomnia 
16. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
17. Vitamin D 1000 UNIT PO DAILY 
18. Citalopram 40 mg PO DAILY 
19. BusPIRone 12.5 mg PO TID 
20. MetFORMIN (Glucophage) 1000 mg PO BID 
21. Torsemide 60 mg PO BID 
22. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
23. Dakins ___ Strength 1 Appl TP ASDIR 
24. OxyCODONE (Immediate Release) 10 mg PO TID 
25. Glargine 68 Units Breakfast
Glargine 78 Units Bedtime
Humalog 30 Units Breakfast
Humalog 25 Units Lunch
Humalog 30 Units Dinner

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY 
RX *bisacodyl 5 mg 2 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
3.  Glargine 72 Units Breakfast
Glargine 72 Units Bedtime
Humalog 30 Units Breakfast
Humalog 25 Units Lunch
Humalog 30 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
4.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing/sob  
7.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 80 mg PO QPM  
10.  BusPIRone 12.5 mg PO TID  
11.  Citalopram 40 mg PO DAILY  
12.  Fluticasone-Salmeterol Diskus (250/50)  2 INH IH BID  
13.  Gabapentin 600 mg PO TID  
14.  HydrOXYzine 75 mg PO TID  
15.  Lidocaine 5% Ointment 1 Appl TP ___ DAILY  
16.  MetFORMIN (Glucophage) 1000 mg PO BID  
17.  Methadone 10 mg PO QHS  
18.  Metoprolol Succinate XL 200 mg PO DAILY  
19.  Nicotine Patch 21 mg TD DAILY  
20.  Omeprazole 20 mg PO DAILY  
21.  OxyCODONE (Immediate Release) 10 mg PO TID  
22.  Senna 8.6 mg PO BID:PRN constipation  
23.  TraZODone 50 mg PO QHS:PRN insomnia  
24.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID  
25.  Vitamin D 1000 UNIT PO DAILY  
26. HELD- amLODIPine 10 mg PO DAILY  This medication was held. 
Do not restart amLODIPine until told by your doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY: 
Acute Kidney Injury

SECONDARY:
Diabetes Mellitus 
s/p Ventral hernia repair
Chronic diastolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you.

Why you were admitted? 
 - You were admitted because you had an injury to your kidney.

What we did for you? 
 - You were dehydrated likely because of your uncontrolled 
diabetes, which leads to you urinating too much fluid out.
 - You were given fluids through the IV with improvement in your 
kidney function.
 - You were seen by the surgeons and wound care team, who said 
that your wound does not look infected.

What should you do when you leave the hospital?
 - We lowered your torsemide dose to 20mg daily. Please weigh 
yourself every morning, and call MD if weight goes up more than 
3 lbs. 
 - We lowered the dose of your lisinopril as well and are 
holding your amlodipine, since your blood pressure was not high 
in the hospital.
 - Please take all your medications as prescribed including your 
insulin which you should take standing with meals.
 - Please attend your follow up appointments.

We wish you the best,
Your ___ team.
 
Followup Instructions:
___